US05166214
Preparation of N'-(2,4-difluorophenyl)-N-[8-(4,5-diphenyl-1H-imidazol-2-ylthio)octyl]-N-heptylurea
Part C. To a solution of 8-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptyl-1-octanamine (0.5 g, 0.001 mol) in hexane (25 mL) was added, dropwise, a solution of 2,4-difluorophenylisocyanate (0.15 mL, 0.194 g, 0.00125 mol) in hexane (10 mL), and the reaction mixture was stirred at ambient temperature for 3 hours. The reaction mixture was concentrated under vacuum and the residue was chromatographed using 8:2 hexane-ethyl acetate to give a solid which was triturated with cold ethyl acetate and then hexane to give the title compound (0.18 g, 0.00028 mol) as a white solid, mp 89°-91°. 1H NMR (DMSO-d6) δ12.5(s,1H), 7.9(s,1H), 7.5-7.1(m,10H), 3.3-3.1(m,5H), 1.8-1.2(m,17H), 0.9(t,3H,J=8Hz).

reactant | 8-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptyl-1-octanamine | 0.001 mol, 0.5 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCCCCNCCCCCCC | C30H43N3S
reactant | 2,4-difluorophenylisocyanate | 0.00125 mol, 0.15 mL, 0.194 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | hexane | 25 mL | CCCCCC | C6H14
solvent | hexane | 10 mL | CCCCCC | C6H14
product | N'-(2,4-difluorophenyl)-N-[8-(4,5-diphenyl-1H-imidazol-2-ylthio)octyl]-N-heptylurea | 0.00028 mol, 0.18 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCCCCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H46F2N4OS
